* C:\Users\srava\STM32CubeIDE\workspace_1.19.0\scope\signal_conditioner\signal_conditioner.asc
* Generated by LTspice 24.1.10 for Windows.
V3 0 VEE {Vcc}
V4 VCC 0 {Vcc}
X§U2 0 N001 VCC VEE N002 level2 Avol=1Meg GBW=1Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R1 N002 N001 10K
R2 N001 N005 61K
V1 N005 0 SINE(0 10 1k)
X§U1 0 N007 VCC VEE N006 level2 Avol=1Meg GBW=1Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R3 N006 N007 10K
R4 N007 N008 20K
V2 N008 0 3.3V
X§U3 0 N003 VCC VEE N004 level2 Avol=1Meg GBW=1Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R5 N004 N003 10K
R6 N003 N006 10K
R7 N003 N002 10K
.param Vcc = 9
.tran 0 10m 0 0.00001
.lib UniversalOpAmp2.lib
.backanno
.end
